US05447714
n-Octanal.
The foregoing formula may require a solubilizing agent, e.g., the methyl ester of dihydroabietic acid (commercial name: HERCOLYN D® benzyl benzoate isopropyl myristate and/or C12 -C14 isoparaffin hydrocarbons.

reactant | dihydroabietic acid | CC(C)C1CCC2C(=C1)CCC3C2(CCCC3(C)C(=O)O)C | C20H32O2
reactant | benzyl benzoate isopropyl myristate | C(C)(C)OC(CCCCCCCCCCCCC)=O.C(C1=CC=CC=C1)(=O)OCC1=CC=CC=C1
product | n-Octanal | C(CCCCCCC)=O | C8H16O
